US04455422
2.0 Grams of 6-[1-oxo-4-(4-phenylpiperazinyl)-butyl]-3,4-dihydrocarbostyril and 0.5 g of palladium black were dispersed in 80 ml of water and stirred at a room temperature under 2 atmospheric pressure of hydrogen gas for 5 hours. The reaction mixture was filtered for removing the palladium black and the mother liquor was concentrated under a reduced pressure and the residue thus obtained was crystallized from acetone and a small amount of ethanol. The crude crystals thus obtained were collected by filtration and recrystallized from isopropanol to obtained 1.5 g of 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril in colorless needle like crystals.

reactant | 6-[1-oxo-4-(4-phenylpiperazinyl)-butyl]-3,4-dihydrocarbostyril | O=C(CCCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H27N3O2
reactant | hydrogen | [H][H] | H2
solvent | water | 80 ml | O | H2O
catalyst | palladium black | 0.5 g | [Pd] | Pd
product | 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril | 1.5 g | OC(CCCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H29N3O2
